US09284321B2
7-bromo-5-cyano-2-diethoxymethyl-indole-1-carboxylic acid tert-butyl ester (0.29 g, 685 μmol) was solved in THF (2 ml) and cooled to 0° C. Afterwards hydrochloric acid (37%, 1.35 g, 1.14 ml, 13.7 mmol) was added quickly, and the mixture was allowed to stir for 15 min at 0° C. and for 5 h at room temperature. The mixture was cooled (ice bath), saturated sodium carbonate solution (10 ml) was added and the mixture was extracted with ethyl acetate (2×25 ml). The combined organic layers were washed with brine (30 ml), dried (MgSO4) and evaporated. The crude product (0.18 g) was further purified by flash chromatography on silica gel (heptane/ethyl acetate 0-20%) to yield 7-bromo-2-formyl-1H-indole-5-carbonitrile (0.17 g, 100%) as an orange solid, MS (ISN) m/z=247.4 [(M−H)+], mp 117.5° C.

reactant | 7-bromo-5-cyano-2-diethoxymethyl-indole-1-carboxylic acid tert-butyl ester | 685 μmol, 0.29 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC(=C12)Br)C#N)C(OCC)OCC | C19H23BrN2O4
reactant | hydrochloric acid | 13.7 mmol, 1.14 ml, 1.35 g | Cl | ClH
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 7-bromo-2-formyl-1H-indole-5-carbonitrile | 0.17 g, 100% | BrC=1C=C(C=C2C=C(NC12)C=O)C#N | C10H5BrN2O
